US04859229
0.51 g of methyl isocyanate and subsequently one drop of triethylamine are added at room temperature while stirring to a solution of 2.00 g of 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione in 20 ml of methylene chloride. The reaction mixture is stirred for one hour and evaporated to dryness under reduced pressure. The residue is purified by chromatography on a silica gel column using diethyl ether-n-hexane (2:1) as the eluent. There is obtained 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenyl methylcarbamate, 1H-NMR (CDCl3, 400 MHz): 7.33 ppm (d,1H), 7.24 ppm (d,1H), 6.34 ppm (s,1H), 5.21 ppm (q,1H), 3.54 ppm (d,3H), 2.88 ppm (d,3H).

reactant | methyl isocyanate | 0.51 g | CN=C=O | C2H3NO
reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 2.00 g | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenyl methylcarbamate | CNC(OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)=O | C14H10ClF4N3O4
